US07176216B2
(7-Bromo-3-nitropyrazolo[1,5-a]pyridin-2-yl)methyl methyl ether
To a solution of (7-bromopyrazolo[1,5-a]pyridin-2-yl)methyl methyl ether (1.0 g) dissolved in acetonitrile (20 mL) was added nitronium tetrafluoroborate (606 mg) while stirring on ice. The obtained reaction mixture was added to ice water, extracted with ethyl acetate and then washed with water and brine. The obtained organic extract was dried over anhydrous magnesium sulfate and filtered, the solvent was evaporated under reduced pressure, the residue was purified by silica gel column chromatography and the title compound (546 mg) was obtained as light yellow crystals from the n-hexane:ethyl acetate (5:1) fraction.

reactant | (7-bromopyrazolo[1,5-a]pyridin-2-yl)methyl methyl ether | 1.0 g | COCC1=NN2C(C=CC=C2Br)=C1 | C9H9BrN2O
reactant | nitronium tetrafluoroborate | 606 mg | F[B-](F)(F)F.O=[N+]=O
solvent | acetonitrile | 20 mL | C(C)#N | C2H3N
product | (7-Bromo-3-nitropyrazolo[1,5-a]pyridin-2-yl)methyl methyl ether | 546 mg | COCC1=NN2C(C=CC=C2Br)=C1[N+](=O)[O-] | C9H8BrN3O3
